US04775687
Sodium hydride (60% in oil, 1.2 g) was added to a solution of 5-(4-hydroxybenzyl)-2,4-thiazolidinedione (3.4 g) in DMF (30 ml), and the mixture was stirred at room temperature for 30 minutes, followed by dropwise addition of a solution of 2-chloromethyl-4-phenylthiazole (4.4 g) in DMF (20 ml) at room temperature. The mixture was stirred at room temperature for 1 hour and at 60° C. for 1 hour, poured into water, neutralized with acetic acid and extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried (MgSO4). The solvent was then distilled off and the oily residue was subjected to column chromatography using silica gel (100 g). Elution with benzene-acetone (25:1, v/v) gave 5-[4-(4-phenyl-2-thiazolylmethoxy)benzyl]-2,4-thiazolidinedione (2.9 g, 49.2%). Recrystallization from ethanol gave light-yellow crystals. M.p. 164°-165° C.

reactant | Sodium hydride | 1.2 g | [H-].[Na+]
reactant | 5-(4-hydroxybenzyl)-2,4-thiazolidinedione | 3.4 g | OC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C10H9NO3S
reactant | 2-chloromethyl-4-phenylthiazole | 4.4 g | ClCC=1SC=C(N1)C1=CC=CC=C1 | C10H8ClNS
reactant | water | O | H2O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-[4-(4-phenyl-2-thiazolylmethoxy)benzyl]-2,4-thiazolidinedione | 2.9 g, 49.2% | C1(=CC=CC=C1)C=1N=C(SC1)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C20H16N2O3S2
